US04560701
Ethyl 4-(4-nitrophenyl)pentanoate
A mixture of 110 g of 4-(4-nitrophenyl)valeric acid, 660 ml of absolute ethanol and 10 ml of concentrated sulfuric was heated under reflux overnight. The ethanol was evaporated in vacuo and the residue was partitioned between ether and water. The ether extract was washed with 5% sodium bicarbonate, with water, dried over anhydrous sodium sulfate, filtered and evaporated to give 119 g (97%) of product. The product has bp 127°-128° C. (1.5 mm).

reactant | 4-(4-nitrophenyl)valeric acid | 110 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)O)C | C11H13NO4
reactant | ethanol | 660 ml | C(C)O | C2H6O
product | Ethyl 4-(4-nitrophenyl)pentanoate | 119 g, 97% | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)OCC)C | C13H17NO4
